US06887896B1
6-Bromo-7-hydroxy-2,2-dimethyl-chroman-4-one (Compound 3)
A mixture of 4-bromoresorcinol (5.00 g, 26.5 mmol) and 3,3-dimethylacrylic acid (2.64 g, 26.5 mmol) were ground in a mortar. The mixture was then added portion-wise into polyphosphoric acid (8 g) at 90° C. After stirred at 90° C. for 15 min, the reaction mixture was cooled to room temperature and quenched with water. The mixture was then extracted with diethyl ether. The organic layer was separated, washed with water, brine, dried (MgSO4) and concentrated at reduced pressure to give a yellow residue. Purification by recrystallization (methanol and water) afforded the title compound as a yellow solid.

reactant | 4-bromoresorcinol | 26.5 mmol, 5.00 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | 3,3-dimethylacrylic acid | 26.5 mmol, 2.64 g | CC(=CC(=O)O)C | C5H8O2
product | 6-Bromo-7-hydroxy-2,2-dimethyl-chroman-4-one | BrC=1C=C2C(CC(OC2=CC1O)(C)C)=O | C11H11BrO3
